US06096899
1-Methyl-2-vinyl-4,5-dicyanoimidazole
To a solution of 0.602 g (4.17 mmol) of 2-vinyl-4,5-dicyanoimidazole in distilled THF (15 mL) at 0° C. under nitrogen was added slowly while stirring 0.22 mL (2.32 mmol) of dimethyl sulfate and 0.60 mL (4.30 mmol) triethylaminine via syringe. The reaction solution was allowed to come to room temperature and was stirred for 15 hours. The reaction solution was concentrated down under a stream of nitrogen and dissolved in 10 mL CH2Cl2. This solution was washed twice with a 10% solution of NaOH and twice with a saturated solution of NaCl. CH2Cl2 was stripped off, leaving a brown oil. This oil was dissolved in approximately 1 mL of THF and precipitated out in hexane. The precipitate was vacuum filtered and dried to yield 0.345 g (52.4% yield) of a light brown, fluffy powder. This powder was dissolved in 100 mL of ether and vacuum filtered to remove undissolved particles. 20 mL of hexane was added to the ether solution, and the solution was cooled to 0° C. White, needle-shaped crystals were formed and vacuum filtered.

reactant | 2-vinyl-4,5-dicyanoimidazole | 4.17 mmol, 0.602 g | C(=C)C=1NC(=C(N1)C#N)C#N | C7H4N4
reactant | dimethyl sulfate | 2.32 mmol, 0.22 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | approximately 1 mL | C1CCOC1 | C4H8O
solvent | ether | 100 mL | CCOCC | C4H10O
product | 1-Methyl-2-vinyl-4,5-dicyanoimidazole | 52.4% yield | CN1C(=NC(=C1C#N)C#N)C=C | C8H6N4
